US06320068B1
Methyl 2-diphenylphosphino-1-naphthoate
A stirred solution of methyl 2-trifluoromethanesulfonyloxy-1-naphthoate (52.7 g, 158 mmol, 1 eq), triethylamine (26.5 ml, 190 mmol, 1.2 eq) and palladium acetate (0.15 g, 0.7 mmol, 0.004 eq) in acetonitrile (600 ml) was sparged with nitrogen for 30 minutes. Diphenylphosphine (29.4 g, 158 mmol, 1 eq) was added instantly giving a red coloration. The solution was heated at reflux under nitrogen for 17 hours. The blood-red solution was allowed to cool and concentrated under reduced pressure to approximately half its original volume. Methanol (50 ml) was added and the mixture concentrated a little more under reduced pressure. The product crystallised from this mixture and was collected by filtration and washed with ice-cold methanol (200 ml) and dried under vacuum at ambient temperature; 31p NMR (162 mHz; CDCl3): δ−7.8. Yield 54.1 g, 92%

reactant | methyl 2-trifluoromethanesulfonyloxy-1-naphthoate | 158 mmol, 52.7 g, 1 eq | FC(S(=O)(=O)OC1=C(C2=CC=CC=C2C=C1)C(=O)OC)(F)F | C13H9F3O5S
reactant | triethylamine | 190 mmol, 26.5 ml, 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | Diphenylphosphine | 158 mmol, 29.4 g, 1 eq | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
solvent | acetonitrile | 600 ml | C(C)#N | C2H3N
catalyst | palladium acetate | 0.7 mmol, 0.15 g, 0.004 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 2-diphenylphosphino-1-naphthoate | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C(=O)OC)C1=CC=CC=C1 | C24H19O2P
